US04692184
Preparation of diethyl 2-(difluoromethyl)-4-n-propyl-6-(trifluoromethyl)-3,5-pyridinedicarboxylat
A mixture of 20.0 g (0.05 mole) of diethyl 2,6-bis(trifluoromethyl)-1,4-dihydro-4-n-propyl-3,5-pyridinedicarboxylate, 7.62 g (0.05 mole) of DBU, and 200 ml of THF is held at reflux for 9 hours, cooled and poured into 500 ml of ice water. The mixture is extracted with ether (2×200 ml). The ether extract is washed with diluted hydrochloric acid, dried (MgSO4), and concentrated to give 12.4 g (64.5%) of the desired product, nD25 1.4436.

reactant | diethyl 2,6-bis(trifluoromethyl)-1,4-dihydro-4-n-propyl-3,5-pyridinedicarboxylate | 0.05 mole, 20.0 g | FC(C=1NC(=C(C(C1C(=O)OCC)CCC)C(=O)OCC)C(F)(F)F)(F)F | C16H19F6NO4
reactant | DBU | 0.05 mole, 7.62 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | diethyl 2-(difluoromethyl)-4-n-propyl-6-(trifluoromethyl)-3,5-pyridinedicarboxylat | 12.4 g, 64.5% | FC(C1=NC(=C(C(=C1C(=O)OCC)CCC)C(=O)OCC)C(F)(F)F)F | C16H18F5NO4
